US03937707
Into a sealed tube was placed 2.0 grams of 6-(3-chloropropoxy)-1-phenazinol 5,10-dioxide. The tube was cooled in dry-ice-acetone and 80 ml of dimethylamine was condensed into the tube. The tube was sealed and shaken at room temperature for 70 hours. The tube was then opened and excess dimethylamine allowed to evaporate at room temperature. The residue was dissolved in CHCl3 solution, was washed with water and was then extracted with 3 × 150ml 10 percent aqueous HCl. The combined acid extracts were made basic with sodium carbonate, extracted with CHCl 3 and the combined CHCl3 extracts were washed with water, dried over sodium sulfate and concentrated in vacuo. The residue was recrystallized from acetone/ether to yield 6-(3-dimethylaminopropoxy)-1-phenazinol 5,10-dioxide, mp. 103°C (dec.).

reactant | 6-(3-chloropropoxy)-1-phenazinol 5,10-dioxide | 2.0 grams | ClCCCOC1=C2[N+](=C3C=CC=C(C3=[N+](C2=CC=C1)[O-])O)[O-] | C15H13ClN2O4
reactant | dimethylamine | 80 ml | CNC | C2H7N
solvent | dry-ice acetone | C(=O)=O.CC(=O)C
product | 6-(3-dimethylaminopropoxy)-1-phenazinol 5,10-dioxide | CN(CCCOC1=C2[N+](=C3C=CC=C(C3=[N+](C2=CC=C1)[O-])O)[O-])C | C17H19N3O4
